US05646173
A solution of 11.8 g of 6-ethyl-1-indanone, 15.4 ml of 3-buten-2-ol and 110 mg of p-toluenesulfonic acid in 110 ml of 2,2-dimethoxy-propane was boiled under reflux for 46 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 7.92 g (50%) of (RS)-2-(2-buten-1-yl)-6-ethyl-1-indanone were obtained as a yellow oil.

reactant | 6-ethyl-1-indanone | 11.8 g | C(C)C1=CC=C2CCC(C2=C1)=O | C11H12O
reactant | 3-buten-2-ol | 15.4 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 110 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 110 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-6-ethyl-1-indanone | 7.92 g, 50% | C(C=CC)C1C(C2=CC(=CC=C2C1)CC)=O | C15H18O
